US05206360
7-[2-(2-Aminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-(2-amino-3,4-dioxo-1-cyclobutenyl)-3-cephem-4-carboxylic acid (Id5)
Diphenylmethyl 7-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-(2-amino-3,4-dioxo-1-cyclobutenyl)-3-cephem-4-carboxylate (400 mg) was added to a stirred, cooled (ice/H2O bath) solution of trifluoroacetic acid (6 mL) and anisole (0.5 mL). The cooling bath was removed and the solution stirred for 0.33 hr at ambient temperatures. The solution was concentrated and the residue macerated with methylene chloride to afford a yellow solid. The solid was dissolved in 0.05M (pH 6.5) ammonium phosphate. The solution was applied to a Michel-Miller HPLPLC column (22×300 mm) containing Partisil Prep 40 ODS-3. The column was eluted with 0.05M (pH 6.5) ammonium phosphate/acetonitrile (90:10). The appropriate fractions were combined and the pH lowered to 3.7 with the addition of dilute hydrochloric acid. The solution was concentrated to a volume of 50 mL when the title compound crystallized (155 mg, 52% yield).

reactant | Diphenylmethyl 7-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-(2-amino-3,4-dioxo-1-cyclobutenyl)-3-cephem-4-carboxylate | 400 mg | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C2=C(C(C2=O)=O)N)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC | C30H24N6O7S2
reactant | trifluoroacetic acid | 6 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | anisole | 0.5 mL | C1(=CC=CC=C1)OC | C7H8O
solvent | ammonium phosphate | 0.05M, pH 6.5 | P(=O)([O-])([O-])[O-].[NH4+].[NH4+].[NH4+]
product | 7-[2-(2-Aminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-(2-amino-3,4-dioxo-1-cyclobutenyl)-3-cephem-4-carboxylic acid | 52% yield | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C2=C(C(C2=O)=O)N)C(=O)O)C1=O)=N/OC | C17H14N6O7S2
